US06858651B2
In analogy to example 11.5, trans-(4-Hydroxy-cyclohexyl)-methyl-carbamic acid 4-chloro-phenyl ester and 1,4-dibrombutane were reacted to yield trans-[4-(4-Bromo-butoxy)-cyclohexyl]-methyl-carbamic acid 4-chloro-phenyl ester as yellowish oil, MS:

reactant | trans-(4-Hydroxy-cyclohexyl)-methyl-carbamic acid 4-chloro-phenyl ester | ClC1=CC=C(C=C1)OC(N(C)[C@@H]1CC[C@H](CC1)O)=O | C14H18ClNO3
reactant | 1,4-dibrombutane | BrCCCCBr | C4H8Br2
product | trans-[4-(4-Bromo-butoxy)-cyclohexyl]-methyl-carbamic acid 4-chloro-phenyl ester | ClC1=CC=C(C=C1)OC(N(C)[C@@H]1CC[C@H](CC1)OCCCCBr)=O | C18H25BrClNO3
